US08492549B2
(S)-1-((R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl)-3-methylpiperidine-3-carboxylic acid ethyl ester
(R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride (6.05 g, 30.5 mmol) in DCM (20 ml) was added to a stirred mixture of (S)-3-methyl-piperidine-3-carboxylic acid ethyl ester (5.0 g, 29.2 mmol), DIPEA (5.5 ml, 31.7 mmol) and DCM (30 ml), previously cooled down to 5° C. The cooling bath was removed and stirring continued at RT for 1 h. The reaction mixture was washed twice with 1 M HCl, twice with sat. aq NaHCO3 and twice with water and dried with Na2SO4. Solvent was evaporated to give 9.66 g of the title compound.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride | 30.5 mmol, 6.05 g | O1[C@H](COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | (S)-3-methyl-piperidine-3-carboxylic acid ethyl ester | 29.2 mmol, 5.0 g | C(C)OC(=O)[C@@]1(CNCCC1)C | C9H17NO2
reactant | DIPEA | 31.7 mmol, 5.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-((R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl)-3-methylpiperidine-3-carboxylic acid ethyl ester | 9.66 g | C(C)OC(=O)[C@@]1(CN(CCC1)C(=O)[C@H]1COC2=C(O1)C=CC=C2)C | C18H23NO5
